US06673511B1
At 20 to 30° C., 4.00 g of diethylamine was added to 5.10 g of 5,6-dihydro-2H-pyran-2-one. The resulting mixture was allowed to stand for 20 hours, followed by concentration under reduced pressure, whereby β-(diethylamino)-δ-valerolactone was obtained.

reactant | diethylamine | 4.00 g | C(C)NCC | C4H11N
reactant | 5,6-dihydro-2H-pyran-2-one | 5.10 g | O1C(C=CCC1)=O | C5H6O2
product | β-(diethylamino)-δ-valerolactone | C(C)N(C1CC(=O)OCC1)CC | C9H17NO2
